US04337256
1-(4-Methoxybenzoylamino)-2-(2-methylphenyl)ethane, phosphorus oxychloride and phosphorus pentoxide were reacted in the same way as in step (b) of Example 1 to afford 1-(4-methoxyphenyl)-5-methyl-3,4-dihydroisoquinoline as colorless prisms having a melting point of 83.0° to 83.5° C.

reactant | 1-(4-Methoxybenzoylamino)-2-(2-methylphenyl)ethane | COC1=CC=C(C(=O)NCCC2=C(C=CC=C2)C)C=C1 | C17H19NO2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1-(4-methoxyphenyl)-5-methyl-3,4-dihydroisoquinoline | COC1=CC=C(C=C1)C1=NCCC2=C(C=CC=C12)C | C17H17NO
